US03988376
In a manner analogous to Example 1, 4-t-butylphenylsulfenyl chloride was added in 1:1 proportion to divinyl sulfone, subjected to treatment with triethylamine in benzene, and purified by column chromatography. The product, vinyl 2-(4-t-butylphenylthio)vinyl sulfone, was obtained as a brown oil which crystallized on standing, m.p. 62-64° C; calculated for C14H18O2S2 :S, 22.7; found: S, 22.0; Cl, O.

reactant | 4-t-butylphenylsulfenyl chloride | C(C)(C)(C)C1=CC=C(C=C1)SCl | C10H13ClS
reactant | divinyl sulfone | C(=C)S(=O)(=O)C=C | C4H6O2S
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | benzene | C1=CC=CC=C1 | C6H6
product | vinyl 2-(4-t-butylphenylthio)vinyl sulfone | C(C)(C)(C)C1=CC=C(C=C1)SC=CS(=O)(=O)C=C | C14H18O2S2
